US05710322
A solution of (S)-N-methyl-tert-leucinamide in 100 ml of a 6N solution of HCl/CH3COOH (1:1) was heated under reflux for 14 days. Then, the mixture was evaporated, the residue was chromatographic over AMBERLITE. Evaporation and drying gave 750 mg (41%) of (S)-tert-leucine, [α]=+6.2 (c=1.62, 5N HCl), 97% e.e.

reactant | (S)-N-methyl-tert-leucinamide | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
reactant | HCl CH3COOH | Cl.CC(=O)O
product | (S)-tert-leucine | 750 mg, 41% | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
